US08022222B2
A 20 mL vial is charged with ethyl 4-chloro-3-(5-(3-methoxy-3-oxopropylthio)-2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoate (0.33 mmol) and THF (0.5 mL). 1M KOtBu in THF (1.184 ml, 1.184 mmol) is added and the reaction mixture is stirred at room temperature for 30 seconds. 2-(Bromomethyl)pyridine hydrobromide (85.55 mg, 0.3382 mmol) is added and the reaction mixture is stirred at room temperature for 30 minutes. Saturated aqueous ammonium chloride is added and extracted with EtOAc. The reaction mixture is purified via column chromatography on silica gel to afford ethyl 4-chloro-3-(2-(4-methylthiazol-2-ylamino)-5-(pyridin-2-ylmethylthio)pyridin-4-yloxy)benzoate.

reactant | ethyl 4-chloro-3-(5-(3-methoxy-3-oxopropylthio)-2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoate | 0.33 mmol | ClC1=C(C=C(C(=O)OCC)C=C1)OC1=CC(=NC=C1SCCC(=O)OC)NC=1SC=C(N1)C | C22H22ClN3O5S2
reactant | KOtBu | 1M | CC(C)(C)[O-].[K+]
reactant | 2-(Bromomethyl)pyridine hydrobromide | 0.3382 mmol, 85.55 mg | Br.BrCC1=NC=CC=C1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.184 mmol, 1.184 ml | C1CCOC1 | C4H8O
product | ethyl 4-chloro-3-(2-(4-methylthiazol-2-ylamino)-5-(pyridin-2-ylmethylthio)pyridin-4-yloxy)benzoate | ClC1=C(C=C(C(=O)OCC)C=C1)OC1=CC(=NC=C1SCC1=NC=CC=C1)NC=1SC=C(N1)C | C24H21ClN4O3S2
